US20010027196A1
2-Amino-4-(4-bromo-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 4-bromobenzylamine hydrochloride and DBU in DME. ES-MS m/e (%): 372 (M{81Br}+H+, 95), 370 (M{79Br}+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-bromobenzylamine hydrochloride | Cl.BrC1=CC=C(CN)C=C1
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-bromo-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=C(C=C1)Br)C#N)C=1OC=CC1 | C16H12BrN5O
